US05055451
(2,3,5,6-Tetramethyl-terephthalic Acid)
2,3,5,6-Tetramethyl-p-xylene-α,α'-diol (5.0 g, 26 mmol) was suspended in 250 mL of distilled acetone, and cooled to 0° C. To a separate solution of chromium (VI) oxide (14.15 g, 0.14 ml) in 50 mL of water was dropwise added concentrated sulfuric acid (14.5 mL, 0.26 mol) at 0° C. during 45 minutes. This mixture was then added dropwise during 30 minutes to the acetone solution, with stirring at 0° C. The mixture was stirred vigorously at 0° C. for 1 hour, then at room temperature for 18 hours. The reaction mixture was concentrated by rotary evaporation, and 1 NHCl was added to attain pH 1. The product was precipitated by cooling, then was filtered, washed with water (3×) and diethyl ether (3×), and dried at high vacuum to afford 4.55 g (80%) of the product (HOOC--C6 (CH3)4 --COOH) as a white solid, m.p. >300° C.

reactant | 2,3,5,6-Tetramethyl-p-xylene-α,α'-diol | 26 mmol, 5.0 g | CC1=C(C(=C(C(=C1C)CO)C)C)CO | C12H18O2
reactant | sulfuric acid | 0.26 mol, 14.5 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 50 mL | O | H2O
solvent | acetone | 250 mL | CC(=O)C | C3H6O
catalyst | chromium (VI) oxide | 0.14 ml, 14.15 g | [O-2].[Cr+6].[O-2].[O-2]
product | 2,3,5,6-Tetramethyl-terephthalic Acid | 4.55 g, 80% | CC1=C(C(=O)O)C(=C(C(=C1C)C(=O)O)C)C | C12H14O4
